US07592345B2
d) step 4: 2-(3,4-Dichloro-phenyl)-4-(1,1-dioxo-hexahydro-1λ6-thia-5,7a-diaza-inden-5-yl)-2-methyl-butyric acid
A mixture of 1.16 g (2.6 mmol) 2-(3,4-dichloro-phenyl)-4-(1,1-dioxo-hexahydro-1λ6-thia-5,7a-diaza-inden-5-yl)-2-methyl-butyric acid methyl ester and 0.123 g (2.9 mmol) LiOH.H2O in 40 mL water and 40 mL THF was stirred at room temperature for 48 h. After evaporation of THF the pH was adjusted to pH=2 with 2N HCl aq., evaporated to dryness, taken up in acetonitrile and evaporated (3×), The residue was dried at 60° C. under high vacuum and used without further purification in the consecutive amide coupling step. MS(m/e): 421.0 (MH+).

reactant | 2-(3,4-dichloro-phenyl)-4-(1,1-dioxo-hexahydro-1λ6-thia-5,7a-diaza-inden-5-yl)-2-methyl-butyric acid methyl ester | 2.6 mmol, 1.16 g | COC(C(CCN1CC2CCS(N2CC1)(=O)=O)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C18H24Cl2N2O4S
reactant | LiOH.H2O | 2.9 mmol, 0.123 g | O[Li].O
solvent | water | 40 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(3,4-Dichloro-phenyl)-4-(1,1-dioxo-hexahydro-1λ6-thia-5,7a-diaza-inden-5-yl)-2-methyl-butyric acid | ClC=1C=C(C=CC1Cl)C(C(=O)O)(CCN1CC2CCS(N2CC1)(=O)=O)C | C17H22Cl2N2O4S
